US07973164B2
N-methyl-N-(4-methylthiazol-2-yl)-2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetamide
Under an atmosphere of argon, a 1M solution of lithium hexamethyldisilazane in THF (0.52 ml) was added dropwise to a stirred solution of N-(4-methylthiazol-2-yl)-2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetamide (0.205 g) in DMF (4 ml) that had been cooled to −5° C. After 5 minutes, a solution of dimethyl sulphate (0.049 ml) in DMF (1 ml) was added dropwise and the resultant mixture was stirred at 0° C. for 30 minutes. The mixture was evaporated and the residue was purified by preparative HPLC using a Waters ‘Xterra’ reversed-phase column (5 microns silica) using decreasingly polar mixtures of water (containing 0.2% ammonium carbonate) and acetonitrile as eluent. There was thus obtained the title compound (0.105 g); 1H NMR: (DMSOd6) 2.29 (d, 3H), 3.73 (s, 3H), 3.93 (s, 3H), 3.95 (s, 3H), 4.17 (s, 2H), 6.5 (d, 1H), 6.82 (s, 1H), 7.52 (d, 2H), 7.4 (s, 1H), 7.42 (d, 2H), 7.5 (s, 1H), 8.49 (d, 1H); Mass Spectrum: M+H+ 450.

reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | N-(4-methylthiazol-2-yl)-2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetamide | 0.205 g | CC=1N=C(SC1)NC(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O | C23H21N3O4S
reactant | dimethyl sulphate | 0.049 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | THF | 0.52 ml | C1CCOC1 | C4H8O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-methyl-N-(4-methylthiazol-2-yl)-2-[4-(6,7-dimethoxyquinolin-4-yloxy)phenyl]acetamide | 0.105 g | CN(C(CC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)=O)C=1SC=C(N1)C | C24H23N3O4S
